US07423159B2
To a solution of ethyl 1-(4-fluorophenyl)-1H-imidazole-5-carboxylate (9.37 g) in tetrahydrofuran (100 ml) was added dropwise diisobutylaluminum hydride (1.5 mol/l toluene solution, 60 ml) at 0° C. The mixture was stirred at 0° C. for 1 hr., sodium sulfate decahydrate (13.0 g) was added and the mixture was stirred at room temperature for 1 hr. The reaction mixture was filtered, and the organic layer was concentrated to give [1-(4-fluorophenyl)-1H-imidazol-5-yl]methanol (4.10 g, 53%) as crystals. Recrystallization thereof from ethyl acetate-isopropyl ether gave pale-yellow prism crystals. melting point: 96-98° C.

reactant | ethyl 1-(4-fluorophenyl)-1H-imidazole-5-carboxylate | 9.37 g | FC1=CC=C(C=C1)N1C=NC=C1C(=O)OCC | C12H11FN2O2
reactant | diisobutylaluminum hydride | 1.5 mol/l, 60 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | sodium sulfate decahydrate | 13.0 g | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | [1-(4-fluorophenyl)-1H-imidazol-5-yl]methanol | 4.10 g, 53% | FC1=CC=C(C=C1)N1C=NC=C1CO | C10H9FN2O
